US07576215B2
4-(3-{[3-CYANO-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]AMINO}PHENYL)-8-(TRIFLUOROMETHYL)QUINOLINE-3-CARBONITRILE
The title compound was prepared from 4-chloro-8-(trifluoromethyl)quinoline-3-carbonitrile and 3-aminophenylboronic acid according to the procedure of Example 1 as a side product. MS (ES) m/z 531.8.

reactant | 4-chloro-8-(trifluoromethyl)quinoline-3-carbonitrile | ClC1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C#N | C11H4ClF3N2
reactant | 3-aminophenylboronic acid | NC=1C=C(C=CC1)B(O)O | C6H8BNO2
product | 4-(3-{[3-CYANO-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]AMINO}PHENYL)-8-(TRIFLUOROMETHYL)QUINOLINE-3-CARBONITRILE | C(#N)C=1C=NC2=C(C=CC=C2C1NC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C#N)C(F)(F)F | C28H13F6N5
